US05837687
Boc-Trp-NHNHCH2Ph
In 600 ml of MeOH were dissolved 60.00 g of Boc-Trp-NHNH2 and 21.00 g of benzaldehyde, and the mixture was stirred in the presence of 3.80 g of 10% palladium carbon for 18 hours in a hydrogen stream. Subsequent procedures were carried out in the same manner as in Reference example 21 to obtain the title compound.

reactant | Boc-Trp-NHNH2 | 60.00 g | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)NN)C(=O)OC(C)(C)C | C16H22N4O3
reactant | benzaldehyde | 21.00 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 600 ml | CO | CH4O
catalyst | palladium carbon | 3.80 g | [C].[Pd]
product | Boc-Trp-NHNHCH2Ph | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)NNCC1=CC=CC=C1)C(=O)OC(C)(C)C | C23H28N4O3
